US06294552B1
1E. 6-(4-Chloro-benzoyl)-1-methyl-4-(3-trimethylsilanylethynyl-phenyl)-1H-quinolin-2-one
6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1-methyl-1H-quinolin-2-one (9.98 g, 20.0 mMol) was suspended in diethylamine (300 mL). To this solution was added 50 mL of anhydrous N,N-dimethylformamide (DMF), (trimethylsilyl)acetylene (8.5 mL) and bis(triphenylphosphine)-palladium(II) chloride (1.40 g, 2.00 mMol). The flask was covered with aluminum foil and then copper(I) iodide (780 mg, 4.09 mMol) was added causing the reaction mixture to exotherm. After stirring overnight under an atmosphere of dry N2 at ambient temperature, the reaction mixture was concentrated under vacuum and the residue was chromatographed on flash silica gel eluting with a gradient of DCM to MeOH/DCM (2:98) to give 8.55 g of the titled product as a solid.

reactant | 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1-methyl-1H-quinolin-2-one | 20.0 mMol, 9.98 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=CC(=CC=C2)I)C=C1 | C23H15ClINO2
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | (trimethylsilyl)acetylene | 8.5 mL | C[Si](C)(C)C#C | C5H10Si
reactant | aluminum | [Al] | Al
solvent | diethylamine | 300 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 2.00 mMol, 1.40 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 4.09 mMol, 780 mg | [Cu]I
product | 6-(4-Chloro-benzoyl)-1-methyl-4-(3-trimethylsilanylethynyl-phenyl)-1H-quinolin-2-one | 8.55 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)C)=O)C2=CC(=CC=C2)C#C[Si](C)(C)C)C=C1 | C28H24ClNO2Si
